US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-amine and DIEA to give 2-[(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 378 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-amine | CN1N=C(C(=C1C)CN)C | C7H13N3
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CN1N=C(C(=C1C)CNC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1)C | C20H19N5OS
